US09029560B2
Preparation of benzyl 4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)benzylcarbamate (C15)
The title compound was prepared as described in Example 10 using 3-bromo-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole (C1b), benzyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylcarbamate (C13), tri-tert-butylphosphonium tetrafluoroborate, palladium(II) acetate, and cesium fluoride and isolated as a white solid (0.846 g, 36%): 1H NMR (400 MHz, DMSO-d6) δ 9.53 (s, 1H), 8.28-8.14 (m, 2H), 8.16-8.04 (m, 2H), 8.04-7.95 (m, 2H), 7.92 (t, J=6.2 Hz, 1H), 7.49-7.13 (m, 7H), 5.07 (s, 2H), 4.29 (d, J=6.2 Hz, 2H); 19F NMR (376 MHz, DMSO-d6) δ −60.79; ESIMS m/z 453 ([M+H]+).

reactant | 3-bromo-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | BrC1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C9H5BrF3N3
reactant | benzyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylcarbamate | CC1(OB(OC1(C)C)C1=CC=C(CNC(OCC2=CC=CC=C2)=O)C=C1)C | C21H26BNO4
reactant | tri-tert-butylphosphonium tetrafluoroborate | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | cesium fluoride | [F-].[Cs+]
catalyst | palladium(II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | benzyl 4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)benzylcarbamate | FC(C1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(CNC(OCC2=CC=CC=C2)=O)C=C1)(F)F | C24H19F3N4O2
